US08981085B2
A mixture of trans-benzyl 3-(diethoxyphosphorylamino)-4-methylpiperidine-1-carboxylate (0.95 g, 2.5 mmol) and 10% Pd/C (0.13 g, 0.12 mmol) in methanol (30 mL) was charged with 1 atmosphere hydrogen and stirred at room temperature for 1 hour. The catalyst was removed by filtration and washed with methanol (20 mL). The filtrate was concentrated in vacuo to give diethyl trans-4-methylpiperidin-3-ylphosphoramidate (0.63 g, 100%) as an oil.

reactant | trans-benzyl 3-(diethoxyphosphorylamino)-4-methylpiperidine-1-carboxylate | 2.5 mmol, 0.95 g | C(C)OP(=O)(OCC)N[C@@H]1CN(CC[C@H]1C)C(=O)OCC1=CC=CC=C1 | C18H29N2O5P
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.12 mmol, 0.13 g | [Pd] | Pd
product | diethyl trans-4-methylpiperidin-3-ylphosphoramidate | 0.63 g, 100% | C[C@H]1[C@@H](CNCC1)NP(OCC)(OCC)=O | C10H23N2O3P
